US04684398
A solution of 30.0 g of N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea and 40 ml of isopropylamine in 300 ml of acetonitrile was heated at reflux with stirring for 154 hours. The solvent and excess isopropylamine were removed by evaporation in vacuo, leaving the crude product as a tacky, white solid. Crystallization from isopropyl acetate followed by a recrystallization from a mixture of isopropyl acetate and 2-propanol gave 5.13 g of N"-cyano-N-isopropyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)guanidine as a white, crystalline solid, mp 170.5°-172.5° C.

reactant | N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea | 30.0 g | C(#N)N=C(NC1CCCC2=CC=CC=C12)SC | C13H15N3S
reactant | isopropylamine | 40 ml | C(C)(C)N | C3H9N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | N"-cyano-N-isopropyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)guanidine | 5.13 g | C(#N)N=C(NC(C)C)NC1CCCC2=CC=CC=C12 | C15H20N4
